US06949542B2
[4-Chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 4-chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenylamine [prepared by stirring commercially available 4,5-dichloro-2-nitro-phenylamine [CAS-No. 6641-64-1], 2,2,2-trifluoro-ethanol and KOH in DMSO at 60° C. for 5 days] (9.33 g, 34.5 mmol) and Boc2O (15.8 g, 72.4 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (8.80 g, 69%).

reactant | 4-chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenylamine | ClC1=CC(=C(C=C1OCC(F)(F)F)N)[N+](=O)[O-] | C8H6ClF3N2O3
reactant | 4,5-dichloro-2-nitro-phenylamine | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
reactant | KOH | [OH-].[K+]
reactant | Boc2O | 72.4 mmol, 15.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-Chloro-2-nitro-5-(2,2,2-trifluoro-ethoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)Cl)[N+](=O)[O-])=O | C13H14ClF3N2O5
